US06329391B1
3-Methoxy-2,4-difluorobenzoic acid
A procedure analogous to the 3-chloro-2,4-difluorobenzoic acid preparation is used starting from 3-methoxy-2,4-difluoro-bromobenzene.

reactant | 3-chloro-2,4-difluorobenzoic acid | ClC=1C(=C(C(=O)O)C=CC1F)F | C7H3ClF2O2
reactant | 3-methoxy-2,4-difluoro-bromobenzene | COC=1C(=C(C=CC1F)Br)F | C7H5BrF2O
product | 3-Methoxy-2,4-difluorobenzoic acid | COC=1C(=C(C(=O)O)C=CC1F)F | C8H6F2O3
